US08293768B2
Synthesis of ethyl 5-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylate
Following the procedure as described in Example 13, making variations as required to replace 4-(trifluoromethyl)benzyl bromide with (bromomethyl)cyclopropane to react with ethyl 3-methyl-5-(2-oxoimidazolidin-1-yl)thiophene-2-carboxylate, the title compound was obtained as a colorless solid in 80% yield: 1H NMR (300 MHz, CDCl3) δ 6.14 (s, 1H), 4.26 (q, J=7.1 Hz, 2H), 3.87-3.79 (m, 2H), 3.72-3.64 (m, 2H), 3.18 (d, J=7.1 Hz, 2H), 2.49 (s, 3H), 1.33 (t, J=7.1 Hz, 3H), 1.02-0.87 (m, 1H), 0.60-0.52 (m, 2H), 0.28-0.21 (m, 2H); MS (ES+) m/z 309.2 (M+1).

reactant | 4-(trifluoromethyl)benzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | (bromomethyl)cyclopropane | BrCC1CC1 | C4H7Br
reactant | ethyl 3-methyl-5-(2-oxoimidazolidin-1-yl)thiophene-2-carboxylate | CC1=C(SC(=C1)N1C(NCC1)=O)C(=O)OCC | C11H14N2O3S
product | ethyl 5-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylate | 80% yield | C1(CC1)CN1C(N(CC1)C1=CC(=C(S1)C(=O)OCC)C)=O | C15H20N2O3S
